US04943567
5 g of 1-amino-2-butanol and 12.2 g of di-t-butyl-dicarbonate are treated in the same manner as in Example 1 (1) to give 10 g of 1-t-butoxycarbonylamino-2-butanol. This product is dissolved in 200 ml of dry tetrahydrofuran, and 8.62 g of N-hydroxyphthalimide, 16.63 g of triphenylphosphine and 9.95 ml of diethyl azodicarboxylate are added at room temperature. After 3 hours of agitation, the solvent is evaporated under reduced pressure. The residue is subjected to silica gel column chromatography and eluted with benzene-ethyl acetate, whereafter the desired fraction is concentrated to give 6.3 g of 1-(t-butoxycarbonylamino)-2-phthalimido-oxy-butane.

reactant | 1-amino-2-butanol | 5 g | NCC(CC)O | C4H11NO
reactant | di-t-butyl-dicarbonate | 12.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | 1-t-butoxycarbonylamino-2-butanol | 10 g | C(C)(C)(C)OC(=O)NCC(CC)O | C9H19NO3
